### PR TITLE
[Merged by Bors] - feat(Data/Set/Intervals/Image): Complete API

### PR DESCRIPTION
**Pull request by YaelDillies**
Dualise all existing lemmas and prove their strictly monotone versions.

The lemmas are grouped as
* `mapsTo`, `image_subset`
  * `On`, not `On`
    * `Monotone`, `Antitone`, `StrictMono`, `StrictAnti`
      * `Ixi`, `Iix`, `Ixx`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Intervals/Image.lean [hunk 1]
```diff
@@ -15,90 +15,233 @@ variable {f : α → β}
...
-section
-variable [Preorder α] [Preorder β]
+section Preorder
+variable [Preorder α] [Preorder β] {a b : α}
 
-theorem Monotone.mapsTo_Icc (h : Monotone f) :
-    MapsTo f (Icc a b) (Icc (f a) (f b)) :=
-  fun _ _ => by aesop
+lemma MonotoneOn.mapsTo_Ici (h : MonotoneOn f (Ici a)) : MapsTo f (Ici a) (Ici (f a)) :=
+λ _c hc ↦ by aesop
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Intervals/Image.lean:22]: Let's try to reduce the diff a bit:
```suggestion
theorem MonotoneOn.mapsTo_Ici (h : MonotoneOn f (Ici a)) : MapsTo f (Ici a) (Ici (f a)) :=
  fun _c hc => by aesop
```
(also `λ` is against the style guide)

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean [hunk 2]
```diff
@@ -3,11 +3,11 @@ Copyright (c) 2020 Zhouhang Zhou. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Zhouhang Zhou
 -/
+import Mathlib.Data.Set.Intervals.Image
 import Mathlib.Order.Bounds.Basic
-import Mathlib.Data.Set.Intervals.Basic
 import Mathlib.Tactic.Common
 
-#align_import data.set.intervals.unordered_interval from "leanprover-community/mathlib"@"4020ddee5b4580a409bfda7d2f42726ce86ae674"
+#align_import data.set.intervals.unordered_interval from "leanprover-community/mathlib"@"3ba15165bd6927679be7c22d6091a87337e3cd0c"
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Intervals/UnorderedInterval.lean:10]: There are no new aligns in this file, so I assume this is an accident?

File: Mathlib/Data/Set/Intervals/Image.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Intervals/Image.lean]: I meant this globally...

Comment (YaelDillies) [reply Mathlib/Data/Set/Intervals/Image.lean]: I don't think it's going to reduce the diff at all except here.

Comment (YaelDillies) [reply Mathlib/Data/Set/Intervals/Image.lean]: Ah yeah, it doesn't reduce it here because your suggestion should've been
```suggestion
theorem MonotoneOn.mapsTo_Ici (h : MonotoneOn f (Ici a)) : MapsTo f (Ici a) (Ici (f a)) :=
  fun _ _ => by aesop
```

Comment (eric-wieser) [reply Mathlib/Data/Set/Intervals/Image.lean]: Well in fact, the suggestion should be for `Monotone.mapsTo`, which should then make the lemma statements line up.

Comment (YaelDillies) [reply Mathlib/Data/Set/Intervals/Image.lean]: I don't think reducing the diff is a meaningful use of my time: I'm rewriting the entire file, the existing lemmas are getting shuffled (so it's not even like the lemma statements would magically line up) and their proofs are golfed, and I am making sure that the file is consistent style-wise.

**Review by eric-wieser — COMMENTED** [review]
Since you now wrote the majority of this file, can you add a sentence or two summarizing the lemmas in the module docstring?

File: lakefile.olean
Comment (eric-wieser) [inline lakefile.olean:1]: This shouldn't be here

File: Mathlib/Data/Set/Intervals/UnorderedInterval.lean [hunk 3]
```diff
@@ -180,8 +180,44 @@ lemma uIcc_injective_left (a : α) : Injective (uIcc a) := by
...
+
+lemma _root_.MonotoneOn.mapsTo_uIcc (hf : MonotoneOn f (uIcc a b)) :
+  MapsTo f (uIcc a b) (uIcc (f a) (f b)) := by
+  rw [uIcc, uIcc, ←hf.map_sup, ←hf.map_inf] <;>
+    apply_rules [left_mem_uIcc, right_mem_uIcc, hf.mapsTo_Icc]
+
+lemma _root_.AntitoneOn.mapsTo_uIcc (hf : AntitoneOn f (uIcc a b)) :
+  MapsTo f (uIcc a b) (uIcc (f a) (f b)) := by
+  rw [uIcc, uIcc, ←hf.map_sup, ←hf.map_inf] <;>
+    apply_rules [left_mem_uIcc, right_mem_uIcc, hf.mapsTo_Icc]
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Intervals/UnorderedInterval.lean:196]: This is lean3 indent styles, I'm afraid. Same for the rest of this file.

File: Mathlib/Data/Set/Intervals/Image.lean [hunk 4]
```diff
@@ -15,90 +19,229 @@ variable {f : α → β}
...
 
-theorem StrictMono.imageIco_subset (h : StrictMono f) :
+lemma StrictMonoOn.mapsTo_Ico (h : StrictMonoOn f (Icc a b)) :
+    MapsTo f (Ico a b) (Ico (f a) (f b)) :=
+  fun _c hc ↦ ⟨h.monotoneOn (left_mem_Icc.2 $ hc.1.trans hc.2.le) (Ico_subset_Icc_self hc) hc.1,
+    h (Ico_subset_Icc_self hc) (right_mem_Icc.2 $ hc.1.trans hc.2.le) hc.2⟩
+
+lemma StrictMonoOn.mapsTo_Ioc (h : StrictMonoOn f (Icc a b)) :
+    MapsTo f (Ioc a b) (Ioc (f a) (f b)) :=
+  fun _c hc ↦ ⟨h (left_mem_Icc.2 $ hc.1.le.trans hc.2) (Ioc_subset_Icc_self hc) hc.1,
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Intervals/Image.lean:191]: Please replace `$` with `<|` throughout

**Review by eric-wieser — APPROVED** [review]
bors d+

Please address the style issues above and below.

I'll take your word for it that this is the complete set.

**Comment by YaelDillies** [comment]
bors merge
